US04415572
To a mixture of 1.2 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium carbonate and 20 ml of DMF was added 720 mg of 4-methoxybenzyl chloride and the mixture was stirred at 80° C. for 2.5 hours. The reaction mixture was poured into a large amount of saturated saline solution and extracted with chloroform. After washing with water the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography. Recrystallization from ethanol gave 950 mg of 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 196°-198° C., colorless needles.

reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 720 mg | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 950 mg | COC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C21H25N3O2
